US07622492B2
Thionyl chloride (9.5 mL, 130 mmol) was added portionwise to a solution of (2-methoxy-pyridin-3-yl)-methanol (1.02 g, 7.3 mmol) in dichloromethane (36 mL). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated and dichloromethane (100 mL) was added. The solution was carefully treated with saturated aqueous sodium hydrogen carbonate and the mixture was stirred for 5-10 min. The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×100 mL). The combined organic layers were washed with brine (100 mL), dried (sodium sulfate), filtered, and evaporated to give 3-chloromethyl-2-methoxy-pyridine (989 mg, 86%) as a light yellow oil.

reactant | Thionyl chloride | 130 mmol, 9.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (2-methoxy-pyridin-3-yl)-methanol | 7.3 mmol, 1.02 g | COC1=NC=CC=C1CO | C7H9NO2
solvent | dichloromethane | 36 mL | ClCCl | CH2Cl2
product | 3-chloromethyl-2-methoxy-pyridine | 989 mg, 86% | ClCC=1C(=NC=CC1)OC | C7H8ClNO
